US06716843B2
(S)-N-[4-Amino-5-oxo-5-(1-pyrrolidinyl)-pentyl]-N-methyl-cyclohexanesulphonamide Hydrochloride
Starting from (S)-N5-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-ornithine, cyclohexanesulphonyl chloride and pyrrolidine, the expected product is obtained according to the procedure described in Example 68.

reactant | (S)-N5-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-ornithine | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(=O)OC(C)(C)C)C(=O)O | C18H26N2O6
reactant | cyclohexanesulphonyl chloride | C1(CCCCC1)S(=O)(=O)Cl | C6H11ClO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (S)-N-[4-Amino-5-oxo-5-(1-pyrrolidinyl)-pentyl]-N-methyl-cyclohexanesulphonamide Hydrochloride | Cl.N[C@@H](CCCN(S(=O)(=O)C1CCCCC1)C)C(N1CCCC1)=O | InChI=1S/C16H31N3O3S.ClH/c1-18(23(21,22)14-8-3-2-4-9-14)11-7-10-15(17)16(20)19-12-5-6-13-19;/h14-15H,2-13,17H2,1H3;1H/t15-;/m0./s1
